US05516774
4-[(2-Methylbenzoyl]amino]benzoyl chloride
A mixture of 10.3 g of 4-[(2-methylbenzoyl)amino]benzoic acid and 32 ml of thionyl chloride is refluxed for 1.5 hours. The solution is concentrated in vacuo. Toluene is added and the solvent removed in vacuo. Toluene is added and the mixture chilled and filtered to give the desired product as a yellow solid, 135°-141° C.

reactant | 4-[(2-methylbenzoyl)amino]benzoic acid | 10.3 g | CC1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C15H13NO3
reactant | thionyl chloride | 32 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[(2-Methylbenzoyl]amino]benzoyl chloride | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
